US09120761B2
(b) Benzyl(4-bromo-2-(trifluoromethoxy)phenyl)carbamate (I46)
4-Bromo-2-(trifluoromethoxy)aniline (1.0 g, 3.9 mmol) was dissolved in dry toluene (25 mL), sodium carbonate (0.621 g, 5.86 mmol) and benzyl chloroformate (0.669 mL, 4.69 mmol) was added and the mixture stirred under nitrogen at room temperature for 22 hours. The reaction was then heated to 80° C. and stirred at this. temperature for 17 hours and then heated further to reflux and stirred for 22 hours. Water (100 mL) was added to the coiled mixture, the aqueous phase separated and washed with ethyl acetate (2×100 mL). The combined organic extracts were washed with 0.5 M aq. citric acid (70 mL), water (70 mL), brine (70 mL), dried (MgSO4), filtered and concentrated in vacuo to give a pink solid. The crude material was purified by silica gel chromatography (40 g Si cartridge, 0-20% EtOAc in 40-60° C. petroleum benzine) to give the title compound (I46) (1.153 g, 76% yield) as a white solid; 1H NMR (400 MHz, CDCl3) δ 8.15 (d, J=8.7 Hz, 1H), 7.44-7.36 (m, 7H), 6.95 (s, 1H), 5.22 (s, 2H). LCMS Method C: rt 6.67 min; m/z 389.9 [M−H]−.

reactant | 4-Bromo-2-(trifluoromethoxy)aniline | 3.9 mmol, 1.0 g | BrC1=CC(=C(N)C=C1)OC(F)(F)F | C7H5BrF3NO
reactant | sodium carbonate | 5.86 mmol, 0.621 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | benzyl chloroformate | 4.69 mmol, 0.669 mL | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
reactant | Water | 100 mL | O | H2O
solvent | toluene | 25 mL | C1(=CC=CC=C1)C | C7H8
product | Benzyl(4-bromo-2-(trifluoromethoxy)phenyl)carbamate | 76% yield | C(C1=CC=CC=C1)OC(NC1=C(C=C(C=C1)Br)OC(F)(F)F)=O | C15H11BrF3NO3
